US08247421B2
Step 2: 2-((R)-(1-(6-chloropyridin-3-yl)ethylamino)-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile
Diisopropylethylamine (730 μl, 4.2 mmol) was added to a mixture of 2-(methylsulfonyl)-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile (330 mg, 2.1 mmol) and 1-(6-chloropyridin-3-yl)ethanamine (described in the literature: EP 375907 (B1))(500 mg, 1 mmol) in tetrahydrofuran (3 mL). The reaction mixture was heated under microwave irradiation at 110° C. for 15 minutes. The reaction mixture was partitioned between EtOAc and water. The organic phase was dried over magnesium sulphate, filtered and evaporated to dryness. The residue was purified on silica gel by flash column chromatography to afford the title compound as a wax (345 mg, 58% yield).

reactant | Diisopropylethylamine | 4.2 mmol, 730 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(methylsulfonyl)-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile | 2.1 mmol, 330 mg | CS(=O)(=O)C1=NC=C(C(=N1)C1=CN(C2=NC=C(C=C21)C(F)(F)F)S(=O)(=O)C2=CC=C(C)C=C2)C#N | C21H14F3N5O4S2
reactant | 1-(6-chloropyridin-3-yl)ethanamine | ClC1=CC=C(C=N1)C(C)N | C7H9ClN2
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | (R)-(1-(6-chloropyridin-3-yl)ethylamino)-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile | 58% yield | ClC1=CC=C(C=N1)[C@@H](C)NC1=NC=C(C(=N1)C1=CN(C2=NC=C(C=C21)C(F)(F)F)S(=O)(=O)C2=CC=C(C)C=C2)C#N | C27H19ClF3N7O2S
